US07091220B2
[(7-Ethyl-1H-indol-3-yl)-o-tolyl-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 7-ethyl-1H-indole and (2-methyl-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 2-methyl-benzaldehyde and dimethylamine.

reactant | 7-ethyl-1H-indole | C(C)C=1C=CC=C2C=CNC12 | C10H11N
reactant | (2-methyl-benzylidene)-dimethylammonium chloride | [Cl-].CC1=C(C=[N+](C)C)C=CC=C1
reactant | 2-methyl-benzaldehyde | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | dimethylamine | CNC | C2H7N
product | [(7-Ethyl-1H-indol-3-yl)-o-tolyl-methyl]-dimethyl-amine | C(C)C=1C=CC=C2C(=CNC12)C(C1=C(C=CC=C1)C)N(C)C | C20H24N2
